US06492425B1
Preparation of N-(2,4-Difluorophenyl)-2-hydroxy-5-nitrophenylcarboxamide
A solution of 5-nitrosalicylic acid (1.4 g, 7.7 mmol) and 2,4-difluoroaniline (0.8 mL, 7.7 mmol) in chlorobenzene (40 mL) was treated with PCl3 (0.338 mL, 3.8 mmol). The solution was heated at reflux under an argon atmosphere. After 2 h. the solution was filtered hot and the filtrate was left standing at RT. After 18 h the solution was filtered and the solid was recrystallized from MeOH to give the title compound (0.733 g, 35% yield): 1H NMR (400 MHz, DMSO-d6) δ 2.5-2.6 (s, 3H), 7.1-8.9 (m, 6H), 10.6-10.7 (s, 1H)

reactant | 5-nitrosalicylic acid | 7.7 mmol, 1.4 g | [N+](=O)([O-])C1=CC=C(C(C(=O)O)=C1)O | C7H5NO5
reactant | 2,4-difluoroaniline | 7.7 mmol, 0.8 mL | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | PCl3 | 3.8 mmol, 0.338 mL | P(Cl)(Cl)Cl | Cl3P
solvent | chlorobenzene | 40 mL | ClC1=CC=CC=C1 | C6H5Cl
product | N-(2,4-Difluorophenyl)-2-hydroxy-5-nitrophenylcarboxamide | 0.733 g, 35% yield | FC1=C(C=CC(=C1)F)NC(=O)C1=C(C=CC(=C1)[N+](=O)[O-])O | C13H8F2N2O4
